US07109193B2
Step A. Trifluoromethanesulfonic acid 4-formyl-2-methoxy-phenyl ester
To a solution of vanillin (6.08 g, 40.0 mmol) and triethylamine (6.70 mL, 48.0 mmol) in dichloromethane (300 mL) was added dropwise a solution of trifluoromethane sulfonic anhydride (12.4 g, 44.0 mmol) in dichloromethane (100 mL) at 0° C. After stirring for 2 hours, the solution was concentrated, and the residue washed with water and extracted twice with ethyl acetate. Upon drying and concentrating, the residual dark oil was subjected to flash chromatography on silica gel eluting with 20% ethyl acetate in hexane providing the title product (8.91 g) as a light yellow oil, which was used in the next step without further purification.

reactant | vanillin | 40.0 mmol, 6.08 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | triethylamine | 48.0 mmol, 6.70 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 44.0 mmol, 12.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 4-formyl-2-methoxy-phenyl ester | C(=O)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C9H7F3O5S
